US08455477B2
6-bromopyrazolo[1,5-a]pyridin-4-ol (1.10 g, 5.16 mmol) and benzyl bromide (0.676 ml, 5.68 mmol) were dissolved in DMF (20 ml) at 0° C. NaH (413 mg, 10.3 mmol, 60 wt %) was added in one portion and the mixture was allowed to stir at 0° C. After 30 minutes, additional benzyl bromide 0.068 ml, 0.57 mmol) was added and the mixture was allowed to stir 30 minutes at 0° C. The reaction mixture was diluted in diethyl ether, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to afford 4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine.

reactant | 6-bromopyrazolo[1,5-a]pyridin-4-ol | 5.16 mmol, 1.10 g | BrC=1C=C(C=2N(C1)N=CC2)O | C7H5BrN2O
reactant | benzyl bromide | 5.68 mmol, 0.676 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 10.3 mmol, 413 mg | [H-].[Na+]
reactant | benzyl bromide | 0.57 mmol, 0.068 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Br)N=CC2 | C14H11BrN2O
